US06822069B2
(2) Synthesis of 2,3-di(4-methylphenyl)-5-aminoquinoxaline
2.02 g (0.0057 mol) of 2,3-di(4-methylphenyl)-5-nitroquinoxaline was dissolved in 30 g of dioxane, then the reaction system was flushed with argon, and 0.6 g of PdC (anhydrous) was added thereto. After the reaction system was again flushed with argon, it was flushed with hydrogen, and reaction was allowed at room temperature for 18 hr. After the reaction was over, the reaction mixture was filtered, the filter cake was washed with acetone and dioxane, and filtration was again conducted. The solvent was removed from the filtrate obtained, and the reaction product was extracted on a silica gel column.

reactant | 2,3-di(4-methylphenyl)-5-nitroquinoxaline | 0.0057 mol, 2.02 g | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)C)[N+](=O)[O-] | C22H17N3O2
solvent | dioxane | 30 g | O1CCOCC1 | C4H8O2
product | 2,3-di(4-methylphenyl)-5-aminoquinoxaline | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)C)N | C22H19N3
